US05464821
To 9.0 g (20.6 mmoles) oily Boc-Gly-Val-OBzl (SEQ ID NO.14) were added 250 ml 2.6M HCl in EtOAc. The mixture was stirred for 80 min. and taken to dryness Under reduced pressure. Following repeated additions of EtoAc and evaporation to dryness under reduced pressure HCl, Gly-Val-OBzl (SEQ ID NO.9) was isolated as a white powder, Yield 5.6 g (79%).

reactant | Boc-Gly-Val-OBzl | 20.6 mmoles, 9.0 g | N(CC(=O)N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H28N2O5
reactant | HCl | 2.6M, 250 ml | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Gly-Val-OBzl | NCC(=O)N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1 | C14H20N2O3
